US07524840B2
(2-amino-4,5-dimethoxyphenyl)-(2-methoxyphenyl)-methanone (Xaa) was prepared by reacting 2-methoxybenzaldehyde with 0.0196 moles of 3,4-dimethoxy aniline in a manner analogous to Example 1. MH+/Z=288.

reactant | 2-methoxybenzaldehyde | COC1=C(C=O)C=CC=C1 | C8H8O2
reactant | 3,4-dimethoxy aniline | 0.0196 moles | COC=1C=C(N)C=CC1OC | C8H11NO2
product | (2-amino-4,5-dimethoxyphenyl)-(2-methoxyphenyl)-methanone | NC1=C(C=C(C(=C1)OC)OC)C(=O)C1=C(C=CC=C1)OC | C16H17NO4
